US08242260B2
To an Argon sparged solution of 1,3-dibromo-2-chloro-5-methylbenzene (5 g, 17.6 mmol), benzophenone imine (3.1 mL, 18.5 mmol), sodium tert-butoxide (2.53 g, 26.4 mmol) in toluene, (S)-BINAP (1.6 g, 2.6 mmol) and Pd2(dba)3 (0.81 g, 0.88 mmol) were added and the reaction was heated in an oil bath. When the temperature reached 60° C. an exotherm was noted, with reflux of the solvent. Heating was maintained and the reaction was complete after 1.5 hours. The reaction mixture was cooled, diluted with Et2O and stirred with Siliabond DMT (Pd scavenger), and was then filtered through Celite. The filtrate was washed with water, brine, dried (MgSO4), and concentrated to afford a sticky brown residue. The residue was dissolved in THF (60 mL) and aqueous 6.0 M HCl solution was added. The reaction mixture was stirred for 30 minutes, partitioned with Et2O and 1M NaOH was added until the aqueous layer was pH 9. The layers were separated and the organic layer was washed with water, brine, dried (MgSO4), and concentrated. Purification by flash chromatography (SiO2, 0-20% EtOAc in heptane) furnished 3-bromo-2-chloro-5-methylaniline (1.7 g) with a small amount of benzophenone as a contaminant: 1H NMR (300 MHz, CDCl3) δ 2.21 (s, 3H) 4.11 (br s, 2H) 6.52 (s, 1H) 6.85 (s, 1H).

reactant | 1,3-dibromo-2-chloro-5-methylbenzene | 17.6 mmol, 5 g | BrC1=C(C(=CC(=C1)C)Br)Cl | C7H5Br2Cl
reactant | benzophenone imine | 18.5 mmol, 3.1 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 26.4 mmol, 2.53 g | CC(C)([O-])C.[Na+]
reactant | (S)-BINAP | 2.6 mmol, 1.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | HCl | 6.0 M | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | Et2O | CCOCC | C4H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | Pd2(dba)3 | 0.88 mmol, 0.81 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd | [Pd] | Pd
product | 3-bromo-2-chloro-5-methylaniline | 1.7 g | BrC=1C(=C(N)C=C(C1)C)Cl | C7H7BrClN
